US08497368B2
(E)-2-(1-(3-(Quinolin-6-ylmethyl)imidazo[1,2-a]pyrimidin-6-yl)ethylidene)-hydrazinecarboxamide (Example 51)
A solution of 1-(3-(quinolin-6-ylmethyl)imidazo[1,2-a]pyrimidin-6-yl)ethanone (40 mg, 0.132 mmol) and hydrazinecarboxamide hydrochloride (14.9 mg, 0.198 mmol) in methanol (3 mL) was stirred at 40° C. for 2 h. The solvent was removed in vacuo and the residue was purified by HPLC to afford 4.2 mg (8.8%) of the title compound as white solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.45 (s, 1H), 9.24 (d, 1H), 8.91 (d, 1H), 8.86 (dd, 1H), 8.30 (d, 1H), 7.98 (d, 1H), 7.89 (s, 1H), 7.72 (dd, 1H), 7.52-7.49 (m, 2H), 6.65 (s, 2H), 4.59 (s, 2H), 2.18 (s, 3H). LCMS (method A): [MH]+=360, tR=2.95 min.

reactant | 1-(3-(quinolin-6-ylmethyl)imidazo[1,2-a]pyrimidin-6-yl)ethanone | 0.132 mmol, 40 mg | N1=CC=CC2=CC(=CC=C12)CC1=CN=C2N1C=C(C=N2)C(C)=O | C18H14N4O
reactant | hydrazinecarboxamide hydrochloride | 0.198 mmol, 14.9 mg | Cl.N(N)C(=O)N
solvent | methanol | 3 mL | CO | CH4O
product | (E)-2-(1-(3-(Quinolin-6-ylmethyl)imidazo[1,2-a]pyrimidin-6-yl)ethylidene)-hydrazinecarboxamide | 4.2 mg, 8.8% | N1=CC=CC2=CC(=CC=C12)CC1=CN=C2N1C=C(C=N2)\C(\C)=N\NC(=O)N | C19H17N7O
